US05082945
Sodium dithionite (0.78 cc) were added to a Na2HPO4 (0.64 g) and water (20 cc) were added to a stirred solution of 4,4'-dithiobis[5-amino-3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazole] (1.94 g, 0.003 mol) in DMF (45 cc). Only a partial solution was obtained and additional quantities of DMF (30 cc) and water (5 cc) were added, and this caused most of the solid substances to go into solution. Finally, CF2Br2 (1.89 g, 0.009 mol) was added and the resulting mixture was stirred at ambient temperature for a period of approximately 17 hours. The reaction mixture was poured into water (185 cc) and this mixture was subjected to a careful extraction with ethyl ether. The separated ether phase was dehydrated over MgSO4 and all the volatile substances were removed by vacuum entrainment using a pump at maximum power, on a water bath at 100° C. for several hours. The resulting residue was subjected to a lightning chromatography on a column of silica gel, eluting with CH2Cl2, and the solvent was evaporated off, giving 5-amino-4 (bromodifluoromethylthio)-3-cyano-1[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H- pyrazole (1.31 g, 90.0%) in the form of the white-coloured solid substance, m.p. 162.5°-163.5° C.

reactant | Sodium dithionite | 0.78 cc | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | 20 cc | O | H2O
reactant | 4,4'-dithiobis[5-amino-3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazole] | 0.003 mol, 1.94 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SSC=1C(=NN(C1N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C22H8Cl4F6N8S2
reactant | water | 5 cc | O | H2O
reactant | CF2Br2 | 0.009 mol, 1.89 g | C(F)(F)(Br)Br | CBr2F2
reactant | water | 185 cc | O | H2O
solvent | DMF | 45 cc | CN(C)C=O | C3H7NO
solvent | DMF | 30 cc | CN(C)C=O | C3H7NO
product | 5-amino-4 (bromodifluoromethylthio)-3-cyano-1[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H- pyrazole | 1.31 g, 90.0% | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SC(F)(F)Br | C12H4BrCl2F5N4S
